US07754745B2
(3S)-3-[2-(Trifluoromethyl)phenoxy]pyrrolidine
To a solution of tert-butyl (3R)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine-1-carboxylate (8.4 g, 25.4 mmol) in CH2Cl2 (80 mL) at rt was added TFA (8 mL, 4.1 mmol). The mixture was stirred at rt overnight. Solvent was removed in vacuo. The residue was diluted with EtOAc, washed with 1N aqueous NaOH, brine; dried (Na2SO4) and concentrated to give the title compound as a light brown oil. 1H NMR (500 MHz, CDCl3): δ 7.58 (d, 1H), 7.49 (t, 1 H), 7.03-6.99 (m, 2 H), 4.97 (t, 1 H), 3.27-3.19 (m, 2 H), 3.02-2.92 (m, 2 H), 2.13-1.99 (m, 2 H).

reactant | tert-butyl (3R)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine-1-carboxylate | 25.4 mmol, 8.4 g | FC(C1=C(O[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1)(F)F | C16H20F3NO3
reactant | TFA | 4.1 mmol, 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-[2-(Trifluoromethyl)phenoxy]pyrrolidine | FC(C1=C(O[C@@H]2CNCC2)C=CC=C1)(F)F | C11H12F3NO
